US07038059B2
20.0 g (183.3 mmol) of 2-azabicyclo[2.2.1]hept-5-en-3-one and 400 mL (400 mmol) of a 1N-hydrogen chloride methanol solution were put into a four-necked flask (500 mL volume) equipped with a thermometer, and the mixture was heated and refluxed for 10 hours. The obtained reaction mixture was concentrated under reduced pressure. The residue was dissolved in 27 mL of diethyl ether, and then cooled to 5° C. The precipitated crystals were filtered off using a glass filter. The obtained crystals were dried under reduced pressure to give 25.6 g (144.1 mmol) of cis-4-amino-2-cyclopentene-1-carboxylic acid methyl ester hydrochloride. The yield was 78.6%.

reactant | 2-azabicyclo[2.2.1]hept-5-en-3-one | 183.3 mmol, 20.0 g | C12NC(C(C=C1)C2)=O | C6H7NO
reactant | hydrogen chloride methanol | CO.Cl
product | cis-4-amino-2-cyclopentene-1-carboxylic acid methyl ester hydrochloride | 144.1 mmol, 25.6 g, yield was 78.6% | Cl.COC(=O)[C@@H]1C=C[C@@H](C1)N | InChI=1S/C7H11NO2.ClH/c1-10-7(9)5-2-3-6(8)4-5;/h2-3,5-6H,4,8H2,1H3;1H/t5-,6+;/m1./s1
